US04748175
4-Hydrazino-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one
12.8 ml of 98% hydrazine hydrate dissolved in 40 ml of n-butanol are dropped to a solution of 20 g of 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one in 320 ml of n-butanol at 117° C. within 30 minutes while stirring. The mixture is stirred for an additional 45 minutes at 117° C., then cooled to room temperature. The precipitate is filtered and washed with water to give 11.66 g (56.3%) of the product, m.p.: 262°-264° C.

reactant | hydrazine hydrate | 12.8 ml | O.NN
reactant | 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 20 g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
solvent | n-butanol | 320 ml | C(CCC)O | C4H10O
product | 4-Hydrazino-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 11.66 g, 56.3% | N(N)C1=NC(=NC2=C1OCC(N2)=O)C | C7H9N5O2
